US04010177
In the manner given in Example 47, 5-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4- yl]benzophenone is treated first with methanesulfonyl chloride followed by (cyclopropylmethyl)amine to give 5-chloro-2-[3-[[(cyclopropylmethyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-chloro-2-[3-(hydroxymethyl)-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4- yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN(C)C)CO | C19H19ClN4O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | 5-chloro-2-[3-[[(cyclopropylmethyl)amino]methyl]-5-[(dimethylamino)methyl]-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN(C)C)CNCC1CC1 | C23H26ClN5O
